US06982274B2
4-Bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine
A total of 1.04 g of. 3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-ylamine was dissolved in 22.3 ml of dichloromethane, and 375 mg of sodium hydrogencarbonate was added. Under ice-cooling and stirring, a solution of 0.12 ml of bromine in 50 ml dichloromethane was added dropwise over 50 minutes. After stirring for 2 hours while ice-cooling, saturated aqueous sodium thiosulfate solution and the mixture was extracted with diethyl ether. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 1.18 g of the title compound as a white foam.

reactant | 3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-ylamine | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H24FN3
reactant | sodium hydrogencarbonate | 375 mg | C(O)([O-])=O.[Na+]
reactant | bromine | 0.12 ml | BrBr | Br2
solvent | dichloromethane | 22.3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine | 1.18 g | BrC1=C2C(=NN(C2=CC=C1N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C32H23BrFN3
